US06525049B2
N-(4-Chlorobenzyl)-2-[(methylamino)methyl]-8-(4-morpholinylmethyl)-6-oxo-6H-pyrrolo[3,2,1-ij]quinoline-5-carboxamide
To a flame-dried flask under a nitrogen atmosphere is added N-(4-chlorobenzyl)-4-hydroxy-8-iodo-6-(4-morpholinylmethyl)-3-quinolinecarboxamide (269 mg) of Preparation 26, PdCl2(PPh3)2 (35 mg), and CuI (12 mg). The flask is back-filled with nitrogen gas and charged with dichloromethane (5 mL), Et3N (0.15 mL), and N-methylpropargylamine (0.055 mL). The reaction is stirred at room temperature for 10 days. The reaction is concentrated under reduced pressure, treated with ethanol (5 mL) and heated to 70° C. for 2 days. The reaction is cooled to room temperature and concentrated under reduced pressure. The residue is adsorbed onto silica and flash column chromatographed eluting with 2% to 10% methanol in dichloromethane. Product-containing fractions are combined and concentrated under reduced pressure to afford a solid which is crystallized from acetonitrile. The crystals are treated with hydrochloric acid (2 mL, 4 N in dioxane). The suspension is diluted with methanol and concentrated under reduced pressure. The residue is triturated with small volumes of methanol-toluene, methanol-ether, toluene, and ether. The solid is treated with dichloromethane and partitioned against saturated aqueous sodium carbonate. The basic aqueous layer is extracted with two additional portions of dichloromethane. The combined organic layers are washed with brine, dried over sodium sulfate and concentrated under reduced pressure to afford 0.09 g of the title compound as an off-white solid.

reactant | N-(4-chlorobenzyl)-4-hydroxy-8-iodo-6-(4-morpholinylmethyl)-3-quinolinecarboxamide | 269 mg | ClC1=CC=C(CNC(=O)C=2C=NC3=C(C=C(C=C3C2O)CN2CCOCC2)I)C=C1 | C22H21ClIN3O3
reactant | dichloromethane | 5 mL | ClCCl | CH2Cl2
reactant | N-methylpropargylamine | 0.055 mL | CNCC#C | C4H7N
catalyst | PdCl2(PPh3)2 | 35 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 12 mg | [Cu]I
solvent | Et3N | 0.15 mL | CCN(CC)CC | C6H15N
product | N-(4-Chlorobenzyl)-2-[(methylamino)methyl]-8-(4-morpholinylmethyl)-6-oxo-6H-pyrrolo[3,2,1-ij]quinoline-5-carboxamide | 0.09 g | ClC1=CC=C(CNC(=O)C2=CN3C4=C(C=C(C=C4C2=O)CN2CCOCC2)C=C3CNC)C=C1 | C26H27ClN4O3
